* C:\Users\stern\Documents\Projects\DC-Motor-Characterization\Current sensing circuit.asc
V1 N001 0 5
R4 N003 0 1000000
R1 N002 0 0.05
XU1 N002 0 N001 0 N003 INA180A3
I1 0 N002 PULSE(0 0.5 0 5 5 5 15 1) AC 0.5
* SHUNT RESISTOR
* Arduino analog read termination
.ac dec 10 1 100000
.lib ina180a3.lib
.backanno
.end
