* C:\Users\stern\Documents\Projects\DC-Motor-Characterization\Optical tachometer circuit.asc
XU1 N004 N001 N003 0 N002 AD823
C1 N001 0 11p
R1 N001 0 80e6
I1 N001 0 SINE(8u 8u 100000 0 0 0 50)
R2 N005 N004 1000
R3 N004 0 1000
C2 N004 0 100p
R4 N002 N001 33k
C3 N002 N001 50p
R5 N002 0 10000000
V1 N005 0 5
V2 N003 0 5
.tran 0.0005
.lib ADI.lib
.backanno
.end
